US08609647B2
(9) Optically-Active Compound of 3,3-difluoro-1,6-diaza-spiro[3.5]nonane-1,6-dicarboxylic acid 1-benzyl ester 6-tert-butyl ester
To a suspension of sodium hydride (1.7 g, with 40% mineral oil) in N,N-dimethylformamide (428 ml) cooled to 0° C. was added a solution of an optically-active compound of 3-benzyloxycarbonylamino-3-(1,1-difluoro-2-methanesulfonyloxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester (17.1 g) in N,N-dimethylformamide (86 ml), and the mixture was stirred at the same temperature for 15 minutes. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The separated organic layer was sequentially washed with water and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=5/1) to give the titled compound (12.6 g).

reactant | sodium hydride | 1.7 g | [H-].[Na+]
reactant | 3-benzyloxycarbonylamino-3-(1,1-difluoro-2-methanesulfonyloxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester | 17.1 g | C(C)(C)(C)OC(=O)N1CC(CCC1)(C(COS(=O)(=O)C)(F)F)NC(=O)OCC1=CC=CC=C1 | C21H30F2N2O7S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 428 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 86 ml | CN(C=O)C | C3H7NO
product | 3,3-difluoro-1,6-diaza-spiro[3.5]nonane-1,6-dicarboxylic acid 1-benzyl ester 6-tert-butyl ester | 12.6 g | C(C)(C)(C)OC(=O)N1CC2(C(CN2C(=O)OCC2=CC=CC=C2)(F)F)CCC1 | C20H26F2N2O4
